US07544697B2
Using the method of Example 595 Part B, di(tert-butyl) 1-pent-4-ynyl-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate (4.00 g, 8.05 mmol), prepared as described in Example 615, was reacted with α-chloroacetaldoxime (1.13 g, 12.1 mmol). The crude product was purified by chromatography (silica gel, elution with a gradient of 20-40% ethyl acetate in hexanes) to provide 1.55 g of di(tert-butyl) 1-[3-(3-methylisoxazol-5-yl)propyl]-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate as a glassy solid.

reactant | di(tert-butyl) 1-pent-4-ynyl-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 8.05 mmol, 4.00 g | C(CCC#C)C=1N(N=C2C(=NC=3CCCCC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C28H40N4O4
reactant | α-chloroacetaldoxime | 12.1 mmol, 1.13 g | ClCC=NO | C2H4ClNO
product | di(tert-butyl) 1-[3-(3-methylisoxazol-5-yl)propyl]-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 1.55 g | CC1=NOC(=C1)CCCC=1N(N=C2C(=NC=3CCCCC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C30H43N5O5
